US05874642
Preparation of 2,2'-bis(phenoxymethyl)-1,1'-binaphthyl
A mixture of 11.0 g (25 mmol) of 2,2'-bis(bromomethyl)-1,1'-binaphthyl, 4.8 g (51.2 mmol) of phenol, 5.0 g (89.3 mmol) of pulverized potassium hydroxide and 1.14 g (5 mmol) of triethylbenzylammonium chloride is admixed with 30 ml of dichloromethane and stirred for 5 hours at 40° C.

reactant | 2,2'-bis(bromomethyl)-1,1'-binaphthyl | 25 mmol, 11.0 g | BrCC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)CBr | C22H16Br2
reactant | phenol | 51.2 mmol, 4.8 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 89.3 mmol, 5.0 g | [OH-].[K+]
catalyst | triethylbenzylammonium chloride | 5 mmol, 1.14 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2,2'-bis(phenoxymethyl)-1,1'-binaphthyl | O(C1=CC=CC=C1)CC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)COC1=CC=CC=C1 | C34H26O2
